US07157546B2
A mixture of 4-chloro-2-methylbutyraldehyde (4.8 g, 0.040 moles), triethyl orthoformate (6.48 g, 0.044 moles), ethyl alcohol (3.0 g), and p-toluenesulfonic acid monohydrate (0.0144 g, 0.000757 moles) was stirred at 45° C. overnight under an argon atmosphere. Next, after cooling to room temperature, Na2CO3 (0.40 g) was added and the mixture was stirred for 15 min. The reaction mixture was filtered and ethyl alcohol and residual triethyl orthoformate were distilled off under reduced pressure. The residue was subjected to fractional vacuum distillation giving 3.2 g of pure 4-chloro-2-methylbutyraldehyde diethyl acetal.

reactant | 4-chloro-2-methylbutyraldehyde | 0.040 moles, 4.8 g | ClCCC(C=O)C | C5H9ClO
reactant | triethyl orthoformate | 0.044 moles, 6.48 g | C(OCC)(OCC)OCC | C7H16O3
reactant | Na2CO3 | 0.40 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 0.000757 moles, 0.0144 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl alcohol | 3.0 g | C(C)O | C2H6O
product | 4-chloro-2-methylbutyraldehyde diethyl acetal | 3.2 g | C(C)OC(C(CCCl)C)OCC | C9H19ClO2
